US06482402B1
Additional MAPTAC/N-t-butylmethacrylamide/ methacrylamide terpolymers were prepared by a similar method beginning with the following ratios of starting monomers: MAPTAC/N-tbutylmethacrylamide/methacrylamide=20/20/60, 33/33/33 and 30/10/60.

reactant | MAPTAC | CC(=C)C(=O)NCCC[N+](C)(C)C.[Cl-]
reactant | methacrylamide | C(C(=C)C)(=O)N | C4H7NO
product | MAPTAC N-t-butylmethacrylamide methacrylamide | CC(=C)C(=O)NCCC[N+](C)(C)C.[Cl-].C(C)(C)(C)NC(C(=C)C)=O.C(C(=C)C)(=O)N | InChI=1S/C10H20N2O.C8H15NO.C4H7NO.ClH/c1-9(2)10(13)11-7-6-8-12(3,4)5;1-6(2)7(10)9-8(3,4)5;1-3(2)4(5)6;/h1,6-8H2,2-5H3;1H2,2-5H3,(H,9,10);1H2,2H3,(H2,5,6);1H
